US06872690B2
Preparation of 4-methyl-6-formylethynyl-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine
A suspension of 4-methyl-6-(3,3-diethoxyprop-1-ynyl) -2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine (2.2 g, 5.7 mmol) in trichloromethane (100 ml), water (5 ml) and trichloroacetic acid (3 g) is heated overnight at reflux. After cooling, the reaction mixture is diluted with pentane:ethyl acetate 1:1 and the organic phase is washed with water and a saturated aqueous solution of sodium bicarbonate and dried. 40% of the product (0.7 g) is obtained by flash chromatography as nearly less crystals of mp 73° C.

reactant | 4-methyl-6-(3,3-diethoxyprop-1-ynyl) -2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | 5.7 mmol, 2.2 g | CC1=CC(=NC(=C1)C#CC(OCC)OCC)OC1=CC(=NN1C)C(F)(F)F | C18H20F3N3O3
reactant | trichloroacetic acid | 3 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | trichloromethane | 100 ml | ClC(Cl)Cl | CHCl3
solvent | water | 5 ml | O | H2O
solvent | pentane ethyl acetate | CCCCC.C(C)(=O)OCC
product | 4-methyl-6-formylethynyl-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | 0.7 g, 40% | CC1=CC(=NC(=C1)C#CC=O)OC1=CC(=NN1C)C(F)(F)F | C14H10F3N3O2
